US05627215
(E)-1,14Di-propyl-1,5,10,14-tetraazatetradec-7-ene tetrahydrochloride
A mixture of 1.26 g (1.84 mmol) of (E)-1,14-di-propyl-1,5,10,14-tetra-BOC-1,5,10,14-tetraazatetradec-7-ene and 19 ml of 3N methanolic hydrochloric acid is stirred for 15 h at room temperature. The reaction mixture is then diluted with 19 ml of diethyl ether, the mixture is filtered, and the filtration residue is washed with diethyl ether. Drying under a high vacuum at 100° C. yields the crystalline title compound (m.p. >260° C.). 1H-NMR (D2O): δ0.95(t,6H); 1.62-1.75(m,4H); 2.05-2.16(m,4H); 3.02(t,4H); 3.11-3.18(m,8H); 3.76(d,4H); 6.04-6.06(m,2H).

reactant | (E)-1,14-di-propyl-1,5,10,14-tetra-BOC-1,5,10,14-tetraazatetradec-7-ene | 1.84 mmol, 1.26 g | C(CC)N(CCCN(C\C=C\CN(CCCN(C(=O)OC(C)(C)C)CCC)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C36H68N4O8
reactant | hydrochloric acid | 3N, 19 ml | Cl | ClH
solvent | diethyl ether | 19 ml | C(C)OCC | C4H10O
product | (E)-1,14Di-propyl-1,5,10,14-tetraazatetradec-7-ene tetrahydrochloride | Cl.Cl.Cl.Cl.C(CC)NCCCNC\C=C\CNCCCNCCC | InChI=1S/C16H36N4.4ClH/c1-3-9-17-13-7-15-19-11-5-6-12-20-16-8-14-18-10-4-2;;;;/h5-6,17-20H,3-4,7-16H2,1-2H3;4*1H/b6-5+;;;;
